US05236952
3.2 ml of 65 percent nitric acid are added dropwise within 10 minutes at 20° to 12.8 g of 4-hydroxy-3-methoxy-4'-(trifluoromethyl)benzophenone (dissolved in 160 ml of acetic acid). After stirring for 1.5 hours, the reaction mixture is poured into 600 ml of ice-water, and the precipitate formed is filtered off, washed with water and dissolved in methylene chloride. The methylene chloride solution is dried over sodium sulfate and evaporated, and the residue is recrystallized from methylene chloride/hexane. There is obtained 4-hydroxy-3-methoxy-5-nitro-4'-(trifluoromethyl)benzophenone of melting point 172°.

reactant | nitric acid | 3.2 ml | [N+](=O)(O)[O-] | HNO3
reactant | 4-hydroxy-3-methoxy-4'-(trifluoromethyl)benzophenone | 160 ml | OC1=C(C=C(C(=O)C2=CC=C(C=C2)C(F)(F)F)C=C1)OC | C15H11F3O3
product | 4-hydroxy-3-methoxy-5-nitro-4'-(trifluoromethyl)benzophenone | OC1=C(C=C(C(=O)C2=CC=C(C=C2)C(F)(F)F)C=C1[N+](=O)[O-])OC | C15H10F3NO5
